US08222416B2
To a stirred solution of (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanol (4.2 g, 14.6 mmol) in dichloromethane (20 mL) at 0° C. was added a solution of thionyl chloride (1.6 mL, 21.9 mmol) in dichloromethane (5 mL) and then stirred for 2 h. The reaction mixture was concentrated in vacuo and the residue was extracted with ethyl acetate, washed with a saturated aqueous sodium bicarbonate solution (2×100 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 1-benzenesulfonyl-5-chloromethyl-1H-pyrrolo[2,3-b]pyridine (3.3 g, 75%) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C14H11ClN2O2S [M+H]+ 307.77, observed 307.1.

reactant | (1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-methanol | 14.6 mmol, 4.2 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)CO | C14H12N2O3S
reactant | thionyl chloride | 21.9 mmol, 1.6 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-benzenesulfonyl-5-chloromethyl-1H-pyrrolo[2,3-b]pyridine | 3.3 g, 75% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)CCl | C14H11ClN2O2S
